** SNSPDLibrary **

* This library contains subckts and
* parameters needed to model an
* snspd. Specifically there are two
* nanowire models that simulate the
* superconducting nanowire's physical
* response to a photon.
*
* The nanowireBCF (Basic Curve Fit)
* model uses a group of switches
* parallel to a variable resitor
* to trace the i-v and pulse
* curves of a nanowire.
*
* The nanowireDynTherm (Dynamic Thermal)
* model uses sets of ancillary circuits to
* calculate and simulate the behavior
* of a nanowire. Each subcircuit is
* embedded into an snspd subcircuit that
* uses current pulses to simulate the
* arivals of a photons.

*************************************
* nanowireBCF                       *
*   basic curve-fitting-based model *
*   of a nanowire                   *
* gate: 1 uA in 2 ps pulse=photon   *
*   only connect to current source  *
* drain: one terminal of channel    *
* source: other terminal of channel *
*************************************

.subckt nanowireBCF gate gatereturn drain source

** MAIN CIRCUIT **

* channel Inductor
L1 drain N1 Flux=({Lind}/(2.0*cos(0.67*asin(0.6*x/{Isw}))-1))*x Rser = 1e-10

* photodetection-event current sensor
V1 N1 N2 0

* photodetection event current
B2 N2 N1 I=IF(I(V1)>0,gain*I(R3),-gain*I(R3))

* hotspot plateau current source
B1 N2 source I=IF(v(n2,source)>0,Ihs,-Ihs)

* hotspot limiting resistor
R2 N2 source {maxSquares*sheetRes}

* gate input resistor
R3 gate gatereturn 1

* current sense switch, detects photon arrival
* actuates in the i>0 range
W1 N2 N3 V1 currentSwitch OFF
* actuates in the i<0 range
W2 N3 N4 V1 negCurrentSwitch ON


* model goes normal above hiIthresh and resets below loIThresh
.model currentSwitch CSW(Ron=1e9 Roff=.01 It={(hiIthresh+loIthresh)/2} Ih={(hiIthresh-loIthresh)/2})
* model goes normal below -hiIthresh and resets above -loIthresh
.model negCurrentSwitch CSW(Ron=.01 Roff=1e9 It={-(hiIthresh+loIthresh)/2} Ih={(hiIthresh-loIthresh)/2})

* voltage sense switches
* actuates in the v>0 range
S1 N4 N5 N2 source voltageSwitch OFF
* actuates in the v<0 range
S2 N5 source N2 source negVoltageSwitch ON


.model voltageSwitch SW(Ron=1e9 Roff=.01 Vt={Vthresh} Vh=0)
.model negVoltageSwitch SW(Ron=.01 Roff=1e9 Vt={-Vthresh} Vh=0)
.ends nanowireBCF
